US08629158B2
a) 4-(4-Chloro-2-fluorobenzyloxy)pyridin-2(1H)-one
A suspension of (4-chloro-2-fluorophenyl)methanol (3.24 g, 20.1 mmol), 2-chloro-4-iodopyridine (4.40 g, 18.3 mmol), Cs2CO3 (7.76 g, 23.8 mmol), CuI (3.48 g, 18.7 mmol) and 1,10-phenanthroline (659 mg, 3.66 mmol) in toluene (20 mL) was degassed by bubbling N2 through the suspension for 15 min. The suspension was put under N2 and heated at 105° C. for 18 h. The suspension was cooled, 9:0.9:0.1 CH2Cl2/MeOH/NH4OH (10 mL) was added, and the resulting suspension was passed through a plug of SiO2. The resulting solution was concentrated under reduced pressure. Flash chromatography on silica gel (hexanes/(1:1 EtOAc/hexanes), 100:0 to 0:100) afforded a white solid. A suspension of the white solid and NH4OAc (2.66 g, 34.6 mmol) in 1:1 HCO2H/H2O (20 mL) was heated at reflux with stirring for 4 d. The solution was cooled and concentrated under reduced pressure. The resulting residue was made basic with saturated NaHCO3 solution, and the resulting suspension was filtered. The solid was washed with H2O and CH2Cl2, and dried under reduced pressure to afford 1.28 g (28%) of the title compound as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 11.14 (br s, 1H), 7.59 (dd, J=8.1, 8.1 Hz, 1H), 7.52 (dd, J=10.2, 1.8 Hz, 1H), 7.36 (dd, J=8.1, 1.8 Hz, 1H), 7.25 (d, J=7.2 Hz, 1H), 5.89 (d, J=7.2, 2.4 Hz, 1H), 5.83 (d, J=2.4 Hz, 1H), 5.06 (s, 2H).

reactant | (4-chloro-2-fluorophenyl)methanol | 20.1 mmol, 3.24 g | ClC1=CC(=C(C=C1)CO)F | C7H6ClFO
reactant | 2-chloro-4-iodopyridine | 18.3 mmol, 4.40 g | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | Cs2CO3 | 23.8 mmol, 7.76 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 3.66 mmol, 659 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 18.7 mmol, 3.48 g | [Cu]I
solvent | HCO2H H2O | 20 mL | C(=O)O.O
product | 4-(4-Chloro-2-fluorobenzyloxy)pyridin-2(1H)-one | 1.28 g, 28% | ClC1=CC(=C(COC2=CC(NC=C2)=O)C=C1)F | C12H9ClFNO2
